US04816581
1.65 g (4.44 mmol) of ra -(αS*,3S*,4R*)-3-[1-(t-butyldimethylsilyloxy)ethyl]4-[(p-chlorophenyl)thio]-azetidinone are dissolved in 70 ml of tetrahydrofuran/methanol 12 percent hydrochloric acid (4:2:1). The solution is stirred at room temperature for 4 hours and then evaporated. The residue is taken up in 50 ml of ethyl acetate, washed with 20 ml of saturated sodium chloride solution and evaporated. The residue obtained is washed with ether/hexane (1:1) and dried. There is obtained pure rac-(αS*,3S*,4R*)-4-[(p-chlorophenyl)thio]-3-(1-hydroxyethyl)-2-azetidinone; IR: 1760 cm-1.

reactant | (αS*,3S*,4R*)-3-[1-(t-butyldimethylsilyloxy)ethyl]4-[(p-chlorophenyl)thio]-azetidinone | [Si](C)(C)(C(C)(C)C)O[C@@H](C)[C@H]1C(N[C@@H]1SC1=CC=C(C=C1)Cl)=O | C17H26ClNO2SSi
solvent | tetrahydrofuran methanol | 70 ml | O1CCCC1.CO
product | rac-(αS*,3S*,4R*)-4-[(p-chlorophenyl)thio]-3-(1-hydroxyethyl)-2-azetidinone | ClC1=CC=C(C=C1)SC1C(C(N1)=O)C(C)O | C11H12ClNO2S
